US06479536B1
4-Chloro-N-[3-(4-isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine]-5-yl]benzamide
By using 3-(4-isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine]-5-amine and 4-chlorobenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 58%. Melting point: 293-295° C. (Methanol)

reactant | 3-(4-isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine]-5-amine | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC13CCN(CC3)C)C(=C(C(=C2C)N)C)C | C25H34N2O
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | Methanol | CO | CH4O
product | 4-Chloro-N-[3-(4-isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine]-5-yl]benzamide | Yield: 58% | ClC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C4(CCN(CC4)C)O3)C3=CC=C(C=C3)C(C)C)C2C)C)C)C=C1 | C32H37ClN2O2
